US04788199
The procedure is as in Example 44, but starting with 3-[(2-phenyl-4-quinolyl)oxy]propanoic acid (1.25 g), thionyl chloride (1.25 cc) in chloroform (100 cc) and diethylamine (2.66 cc). After chromatography of the residue on silica gel using the eluant cyclohexane/ethyl acetate (50:50 by volume), N,N-diethyl-3-[(2-phenyl-4-quinolyl)oxy]propanamide (0.43 g), m.p. 94° C., is isolated.

reactant | 3-[(2-phenyl-4-quinolyl)oxy]propanoic acid | 1.25 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)OCCC(=O)O | C18H15NO3
reactant | thionyl chloride | 1.25 cc | S(=O)(Cl)Cl | Cl2OS
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
reactant | diethylamine | 2.66 cc | C(C)NCC | C4H11N
solvent | chloroform | 100 cc | C(Cl)(Cl)Cl | CHCl3
product | N,N-diethyl-3-[(2-phenyl-4-quinolyl)oxy]propanamide | 0.43 g | C(C)N(C(CCOC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1)=O)CC | C22H24N2O2
